US05726172
A stirred solution of trans-1-amino-4-cyclohexanol (2 g, 13.2 mmol) in CH2Cl2 (26 mL) was cooled to 0° C. under Argon and treated with di-tert-butyl dicarbonate (2.88 g, 13.2 mmol) and triethylamine (4.6 mL, 33 mmol). The solution was allowed to warm to ambient temperature over 16 h and the solvent removed under reduced pressure. The crude product was chromatographed on a silica gel column packed in 70:30 hexanes:EtOAc and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to afford N-Boc-trans-1-amino-4-cyclohexanol (2.5 g, 9.9 mmol)

reactant | trans-1-amino-4-cyclohexanol | 13.2 mmol, 2 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | di-tert-butyl dicarbonate | 13.2 mmol, 2.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 33 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 26 mL | C(Cl)Cl | CH2Cl2
product | N-Boc-trans-1-amino-4-cyclohexanol | 9.9 mmol, 2.5 g | C(=O)(OC(C)(C)C)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
